US06376499B1
Step C: 5-Cyano-3-amino-7-azaindazole
Hydrazine hydrate (55%, 125 μL, 2.20 mmol) was added to a stirred suspension of 2-chloro-3,5-dicyanopyridine (240 mg, 1.47 mmol) and triethylamine (205 μL, 1.47 mmol) in ethanol (3 mL) and the resulting red mixture was heated to 60° C. After 16 h the mixture was cooled and filtered to give the title compound:

reactant | Hydrazine hydrate | 2.20 mmol, 125 μL | O.NN
reactant | 2-chloro-3,5-dicyanopyridine | 1.47 mmol, 240 mg | ClC1=NC=C(C=C1C#N)C#N | C7H2ClN3
reactant | triethylamine | 1.47 mmol, 205 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-Cyano-3-amino-7-azaindazole | C(#N)C=1C=C2C(=NNC2=NC1)N | C7H5N5
